US04189542
salicylic phenyl ester;
salicylic acid-4-tert.-butylphenyl ester, salicylic acid-4-tert.-octylphenyl ester and the like.

reactant | salicylic acid-4-tert.-butylphenyl ester | C(C)(C)(C)C1=CC=C(C=C1)OC(C=1C(O)=CC=CC1)=O | C17H18O3
reactant | salicylic acid-4-tert.-octylphenyl ester | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)OC(C=1C(O)=CC=CC1)=O | C21H26O3
product | salicylic phenyl ester | C1(=CC=CC=C1)OC(C=1C(O)=CC=CC1)=O | C13H10O3
